US07960409B2
Step 7: 7-(azidomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one
To a solution of 7-(bromomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one (1.16 g, 3.5 mmol) in ethanol (35 mL), sodium azide (248 mg, 3.8 mmol) was added. The reaction mixture was then stirred overnight at reflux. After cooling, the reaction mixture was concentrated under reduced pressure and the crude residue was dissolved with CH2Cl2. Salts were removed by filtration and the filtrate was concentrated under reduced pressure to afford the tittle compound. 1H NMR (400 MHz, acetone-d6): 7.72-7.6 (m, 1H), 7.65 (d, 1H), 7.47-7.32 (m, 5H), 6.42 (s, 1H), 4.67 (s, 2H).

reactant | 7-(bromomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one | 3.5 mmol, 1.16 g | BrCC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)F | C16H10BrFO2
reactant | sodium azide | 3.8 mmol, 248 mg | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 7-(azidomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one | N(=[N+]=[N-])CC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)F | C16H10FN3O2
